US07745630B2
Preparation 13: Methyl 1H-tetrazol-1-ylacetate
A mixture of tetrazol-1-yl acetic acid (5 g, 39 mmol) and 4M hydrochloric acid in dioxan (100 μL) in methanol (50 mL) was heated under reflux for 18 hours. The cooled mixture was evaporated under reduced pressure to provide the title compound.

reactant | tetrazol-1-yl acetic acid | 39 mmol, 5 g | N1(N=NN=C1)CC(=O)O | C3H4N4O2
reactant | hydrochloric acid | 4M | Cl | ClH
reactant | dioxan | 100 μL | O1CCOCC1 | C4H8O2
solvent | methanol | 50 mL | CO | CH4O
product | Methyl 1H-tetrazol-1-ylacetate | N1(N=NN=C1)CC(=O)OC | C4H6N4O2
